US04141902
In the manner given in Example 1, 6,7-dicyano-5-(o-bromophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine was reacted with α-chloropropionyl chloride and after 1.5 hours with sodium acetate, then refluxed to give 7,8-dicyano-1-(α-chloroethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6,7-dicyano-5-(o-bromophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | C(#N)C1=C(C=CC2=C1C(=NCC(=N2)NN)C2=C(C=CC=C2)Br)C#N | C17H11BrN6
reactant | α-chloropropionyl chloride | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 7,8-dicyano-1-(α-chloroethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(#N)C1=C(C=CC2=C1C(=NCC=1N2C(=NN1)C(C)Cl)C1=C(C=CC=C1)Br)C#N | C20H12BrClN6
